US06872833B2
(+)-2-Cyclopropylmethoxy-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide
From (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride and hydroxymethylcyclopropane in dioxane and DMF. [α]D20=+39.2° (c=1.02, CHCl3), ES-MS m/e (%): 442 (M+H+, 100).

reactant | (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride | [H-].[Na+].BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1
reactant | hydroxymethylcyclopropane | OCC1CC1 | C4H8O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (+)-2-Cyclopropylmethoxy-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | C1(CC1)COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C22H23N3O5S
